US06635640B2
1-(2-Oxo-4-piperidin-4-yl-1,2-dihydroindol-3-ylidenemethyl)-6,7-dihydro-2H-pyrano[3, 4-c]pyrrol-4-one
A mixture of 4-piperidin-4-yl-1,3-dihydroindol-2-one (117 mg, 0.54 mmol), 4-oxo-2,4,6,7-tetrahydropyrano[3,4-c]pyrrole-1-carbaldehyde (89.3 mg, 0.54 mmol) and piperidine (1 drop) in ethanol (3 mL) was stirred at room temperature for 2 days. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give 54.1 mg (28%) of the title compound as a yellow solid.

reactant | 4-piperidin-4-yl-1,3-dihydroindol-2-one | 0.54 mmol, 117 mg | N1CCC(CC1)C1=C2CC(NC2=CC=C1)=O | C13H16N2O
reactant | 4-oxo-2,4,6,7-tetrahydropyrano[3,4-c]pyrrole-1-carbaldehyde | 0.54 mmol, 89.3 mg | O=C1OCCC=2C1=CNC2C=O | C8H7NO3
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 1-(2-Oxo-4-piperidin-4-yl-1,2-dihydroindol-3-ylidenemethyl)-6,7-dihydro-2H-pyrano[3, 4-c]pyrrol-4-one | 54.1 mg, 28% | O=C1NC2=CC=CC(=C2C1=CC1=C2C(=CN1)C(OCC2)=O)C2CCNCC2 | C21H21N3O3
